US04742052
To a mixture of 2-(1-p-nitrobenzyloxycarbonyl-4-piperidinylidene)ethyl alcohol (1.13 g) and triphenyl phosphine (1.94 g) in tetrahydrofuran (65 ml) was added N-bromosuccinimide (1.31 g) at room temperature and stirred for 2 hours. The reaction mixture was filtered to remove any insoluble materials and the filtrate was concentrated in vacuo to give an oily residue which was purified by silica gel chromatography to give 2-(1-p-nitrobenzyloxycarbonyl-4-piperidinylidene)ethylbromide.

reactant | 2-(1-p-nitrobenzyloxycarbonyl-4-piperidinylidene)ethyl alcohol | 1.13 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)=CCO)C=C1 | C15H18N2O5
reactant | triphenyl phosphine | 1.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.31 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 2-(1-p-nitrobenzyloxycarbonyl-4-piperidinylidene)ethylbromide | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)=CCBr)C=C1 | C15H17BrN2O4
